US04973648
Example 1: N-Butyl-N-methylmorpholinium bromide
A sulfonating flask (250 ml) fitted with stirrer, drip funnel and reflux condenser is charged with 22.3 ml (0.2 mol) of N-methylmorpholine and 80 ml of methyl ethyl ketone (MEK), and then 21.4 ml (0.2 mol) of n-butyl bromide are added dropwise over 20 minutes. After initial turbidity under reflux conditions (ca. 80° C.), the reaction mixture becomes more dense and turns an orange-brown colour. After a reaction time of 7 hours, the crystalline slurry is filtered with suction and the filter residue is washed with a small amount of MEK and dried under vacuum. Yield: 23%; m.p. 205° C.

reactant | N-methylmorpholine | 0.2 mol, 22.3 ml | CN1CCOCC1 | C5H11NO
reactant | n-butyl bromide | 0.2 mol, 21.4 ml | C(CCC)Br | C4H9Br
solvent | methyl ethyl ketone | 80 ml | C(C)C(=O)C | C4H8O
product | N-Butyl-N-methylmorpholinium bromide | Yield: 23% | [Br-].C(CCC)[N+]1(CCOCC1)C | InChI=1S/C9H20NO.BrH/c1-3-4-5-10(2)6-8-11-9-7-10;/h3-9H2,1-2H3;1H/q+1;/p-1
